US04039316
168 g of diketene were slowly added to a solution of 108 g of m-phenylenediamine in a liter of tetrahydrofuran and the mixture was stirred for 5 hours at 20° C. and then was allowed to stand for 15 hours. The mixture was concentrated to dryness under reduced pressure and the residue was added to methanol. The mixture was vacuum filtered and the recovered precipitate was dried to obtain 180 g of m-(acetylacetamido)-acetyl-acetanilide acetanilide melting at 117° C. Chromatography over silica gel and elution with a 6- 4 methylene chloride-acetone mixture gave a product melting at 118° C.

reactant | diketene | 168 g | C=C1CC(=O)O1 | C4H4O2
reactant | m-phenylenediamine | 108 g | C1(=CC(=CC=C1)N)N | C6H8N2
solvent | tetrahydrofuran | a liter | O1CCCC1 | C4H8O
product | m-(acetylacetamido)-acetyl-acetanilide acetanilide | 180 g | C(C)(=O)NC1=CC=CC=C1.C(C)(=O)CC(=O)NC=1C=C(NC(CC(C)=O)=O)C=CC1 | InChI=1S/C14H16N2O4.C8H9NO/c1-9(17)6-13(19)15-11-4-3-5-12(8-11)16-14(20)7-10(2)18;1-7(10)9-8-5-3-2-4-6-8/h3-5,8H,6-7H2,1-2H3,(H,15,19)(H,16,20);2-6H,1H3,(H,9,10)
